US05580986
5-Amino-1-(4-bromo-5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolecarbonitrile
5.0 g (20 mmol) 5-Amino-1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolecarbonitrile was dissolved in 80 ml acetic acid. At room temperature, 1.2 ml (23 mmol) bromine was added, dropwise. After stirring for 15 minutes, the mixture was concentrated and stirred with diisopropyl ether/propanol. The solid material was suction filtered and dried.

reactant | 5-Amino-1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolecarbonitrile | 20 mmol, 5.0 g | NC1=C(C=NN1C1=NN(C(=C1)OC(F)F)C)C#N | C9H8F2N6O
reactant | bromine | 23 mmol, 1.2 ml | BrBr | Br2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 5-Amino-1-(4-bromo-5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolecarbonitrile | NC1=C(C=NN1C1=NN(C(=C1Br)OC(F)F)C)C#N | C9H7BrF2N6O
